US06087380
d) 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulfonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide
532 mg (3.0 mMol) of 4-cyanophenyloxyacetic acid and 486 mg (3.0 mMol) of 1,1'-carbonyldiimidazole were dissolved in 40 ml of tetrahydrofuran and refluxed for 15 minutes. Then 700 mg (2.24 mMol) of 3-amino-4-methylaminobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide were added and boiling was continued for a further eight hours. Then the mixture was evaporated down and the resulting oily residue was refluxed in 30 ml of glacial acetic acid for one hour. The glacial acetic acid was distilled off, the residue was mixed with about 30 ml of water and made alkaline with concentrated ammonia, and the solution was extracted three times with about 20 ml of dichloromethane. The organic phases were dried and evaporated down. The resulting product was further reacted without any purification. Yield: 400 mg (39% of theory), C23H27N5O3S (453.6) Rf value: 0.37 (silica gel; dichloromethane/ethanol=4:1)

reactant | 4-cyanophenyloxyacetic acid | 3.0 mMol, 532 mg | C(#N)C1=CC=C(C=C1)OCC(=O)O | C9H7NO3
reactant | 1,1'-carbonyldiimidazole | 3.0 mMol, 486 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-4-methylaminobenzenesulphonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide | 2.24 mMol, 700 mg | CN(S(=O)(=O)C1=CC(=C(C=C1)NC)N)C1CCN(CC1)C | C14H24N4O2S
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-Methyl-2-[(4-cyanophenyl)oxymethyl]-benzimidazol-5-yl-sulfonic acid-N-methyl-N-(1-methyl-piperidin-4-yl)-amide | CN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)C1CCN(CC1)C | C23H27N5O3S
